US06620977B1
In ethanol (10 ml) was dissolved (S)-ethyl 3-hydroxy-4-trityloxybutanoate (0.37 g, 0.975 mmol). Sodium borohydride (0.238 g, 6.29 mmol) was added to the solution and the solution was stirred at room temperature over night. Acetic acid was added to neutralize the solution. The solution was diluted with water (100 ml) and extracted with ethyl acetate. The extract was washed with saturated brine, dried on magnesium sulfate, filtered, and condensed in vacuo. The residue was subjected to silica gel chromatography to give (S)-1-trityloxy-2,4-butanediol (0.28 g, yield 82%).

reactant | (S)-ethyl 3-hydroxy-4-trityloxybutanoate | 0.975 mmol, 0.37 g | O[C@@H](CC(=O)OCC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H26O4
reactant | Sodium borohydride | 6.29 mmol, 0.238 g | [BH4-].[Na+]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | (S)-1-trityloxy-2,4-butanediol | 0.28 g, yield 82% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@H](CCO)O | C23H24O3
